US07026336B1
Reagent A: 1-(2-Methoxy-ethyl)-piperidine-4-carbaldehyde
1-(2-Methoxyethyl)-piperidine-4-carboxylic acid ethyl ester A solution of ethyl isonipecotate (26 g, 166 mmol) in ethanol (150 ml) was treated with potassium carbonate (41 g, 297 mmol) and 2-bromoethyl methyl ether (25 g, 179 mmol). The reaction mixture was heated to reflex for 24 hours, cooled and then filtered. The filtrate was concentrated in vacuo to yield the title compound (32.76 g, 92%); MS(ES+) m/e 216 [M+H]+. Step 2. 1-(2-Methoxyethyl)-piperidine-4-carbaldehyde Diisobutylaluminium hydride (10.2 ml, 1M solution in THF) was added to a solution of the product of Step 1 (2.0 g, 9.3 mmol) in toluene (40 ml) over a period of 1 hour at −78° C. The reaction was stirred at −78° C. for 1 hour and then quenched with methanol (5 ml) and aqueous ammonium acetate solution (5 ml). The mixture was stirred for 1 hour and then filtered through celite. The filtrate was concentrated in vacuo to yield the title compound (1.1 g, 69%); MS(ES+) m/e 172 [M+H]+.

reactant | 1-(2-Methoxyethyl)-piperidine-4-carbaldehyde Diisobutylaluminium hydride | 1M, 10.2 ml | [H-].C(C(C)C)[Al+]CC(C)C.COCCN1CCC(CC1)C=O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methoxy-ethyl)-piperidine-4-carbaldehyde | 1.1 g, 69% | COCCN1CCC(CC1)C=O | C9H17NO2
